US07648983B2
(R)-2-Methyl-propane-2-sulfinic acid [1-(5-bromo-2,4-difluoro-phenyl)-ethylidene]-amide
To a solution of 1-(5-bromo-2,4-difluoro-phenyl)-ethanone (19 g, 64.7 mmoles, 1 equiv.) and (R)-2-methyl-propane-2-sulfinic acid amide (10.2 g, 84.1 mmoles, 0.76 equiv) in THF (0.3 M, 215 mL) is added Ti(OEt)4 (29.5 g, 129 mmoles, 2.0 equiv) in a single portion at ambient temperature. The reaction is heated to 70° C. and allowed to stir 18 h. The reaction is cooled to ambient temperature, and poured into water. The resulting suspension is filtered through a pad of diatomaceous earth and washed with ethyl acetate. The filtrate is collected and extracted with ethyl acetate. The organic layers are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel chromatography, eluting with a linear gradient of hexane to hexane:ethyl acetate (3:1) over 20 minutes to give the title compound (81% yield): MS (m/z): 338, 340 (M+1).

reactant | 1-(5-bromo-2,4-difluoro-phenyl)-ethanone | 64.7 mmoles, 19 g, 1 equiv. | BrC=1C(=CC(=C(C1)C(C)=O)F)F | C8H5BrF2O
reactant | (R)-2-methyl-propane-2-sulfinic acid amide | 84.1 mmoles, 10.2 g, 0.76 equiv | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | water | O | H2O
solvent | THF | 0.3 M, 215 mL | C1CCOC1 | C4H8O
product | (R)-2-Methyl-propane-2-sulfinic acid [1-(5-bromo-2,4-difluoro-phenyl)-ethylidene]-amide | 81% yield | BrC=1C(=CC(=C(C1)C(C)=N[S@](=O)C(C)(C)C)F)F | C12H14BrF2NOS
